US07202239B2
[10-(4-Cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl][4-(2-methylphenyl)-1-piperazinyl]-methanone
The crude 10-(4-cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carbonyl chloride prepared in the manner of Example 23 (0.5 g) was added to a stirred mixture of N,N-diisopropylethyl amine (0.47 g), 4-(2-toluoyl)piperazine hydrochloride (0.51 g) and 4-(dimethylamino)pyridine (0.05 g) in dichloromethane (25 mL). After stirring overnight at room temperature the reaction mixture was washed with water and saturated aqueous sodium bicarbonat, and dried over anhydrous sodium sulfate. The solution was filtered through a short column of Magnesol®. Refluxing the eluate with the gradual addition of hexane resulted in crystallization of the desired title compound (0.46 g) as colorless crystals, m.p. 141–143° C.

reactant | 10-(4-cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-3-carbonyl chloride | C1(CCCCC1)C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C(=CC3)C(=O)Cl)C=C1 | C26H25ClN2O2
reactant | N,N-diisopropylethyl amine | 0.47 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(2-toluoyl)piperazine hydrochloride | 0.51 g | Cl.C=1(C(=CC=CC1)C(=O)N1CCNCC1)C
catalyst | 4-(dimethylamino)pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | [10-(4-Cyclohexyl-benzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl][4-(2-methylphenyl)-1-piperazinyl]-methanone | 0.46 g | C1(CCCCC1)C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C(=CC3)C(=O)N3CCN(CC3)C3=C(C=CC=C3)C)C=C1 | C37H40N4O2
